US04609730
A solution of m-chloroperbenzoic acid (7 g) in ethyl acetate (35 ml) was added to a solution of benzhydryl 7-phenylacetamido-3-(2,2-dichlorovinyl)-2-cephem-4-carboxylate (15 g) in ethyl acetate (75 ml) under ice-cooling and the mixture was stirred at the same temperature for an hour. The precipitates were collected by filtration to give benzhydryl 7-phenylacetamido-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate-1-oxide (6.57 g).

reactant | m-chloroperbenzoic acid | 7 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
reactant | benzhydryl 7-phenylacetamido-3-(2,2-dichlorovinyl)-2-cephem-4-carboxylate | 15 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(C(=CS2)C=C(Cl)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H24Cl2N2O4S
solvent | ethyl acetate | 35 ml | C(C)(=O)OCC | C4H8O2
solvent | ethyl acetate | 75 ml | C(C)(=O)OCC | C4H8O2
product | benzhydryl 7-phenylacetamido-3-(2,2-dichlorovinyl)-3-cephem-4-carboxylate-1-oxide | 6.57 g | C1(=CC=CC=C1)CC(=O)NC1[C@@H]2N(C(=C(CS2=O)C=C(Cl)Cl)C(=O)OC(C2=CC=CC=C2)C2=CC=CC=C2)C1=O | C30H24Cl2N2O5S
